US07709645B2
[2-(3-{2-dimethylcarbamoyl-4-[3-(2-methoxy-phenyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-phenyl}-ureido)-ethyl]-methyl-carbamic acid tert-butyl ester (61 mg, 0.103 mmol) was dissolved in 5% trifluoroacetic acid in dichloromethane (15 mL). The mixture was stirred at room temperature for 1 hour. The mixture was concentrated and the residue was purified by preparative HPLC to give 13 mg (26%) of (5-[3-(2-methoxy-phenyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-N,N-dimethyl-2-[3-(2-methylamino-ethyl)-ureido]-benzamide. 1H-NMR (250 MHz, d6-DMSO) δ 11.90 (broad s, 1H), 11.04 (s, 1H), 9.15 (s, 1H), 8.64 (d, J=2.0 Hz, 1H), 8.43 (d, J=8.8 Hz, 1H), 8.24 (d, J=2 Hz, 1H), 8.06 (d, J=2.0 Hz, 1H), 7.81 (dd, J=8.8, 2.0 Hz, 1H), 7.72 (s, 1H), 7.61 (dd, J=7.4, 1.6 Hz, 1H), 7.28 (d, J=7.0 Hz, 1H), 7.13 (d, J=7.6 Hz, 1H), 7.06 (t, J=7.5 Hz, 1H), 3.84 (s, 3H), 2.92 (s, 6H), 2.42 (s, 3H); MS: m/z 487.1 (M+H+).

reactant | [2-(3-{2-dimethylcarbamoyl-4-[3-(2-methoxy-phenyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-phenyl}-ureido)-ethyl]-methyl-carbamic acid tert-butyl ester | 0.103 mmol, 61 mg | C(C)(C)(C)OC(N(C)CCNC(=O)NC1=C(C=C(C=C1)C=1C=C2C(=NC1)NC=C2C2=C(C=CC=C2)OC)C(N(C)C)=O)=O | C32H38N6O5
solvent | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 5-[3-(2-methoxy-phenyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-N,N-dimethyl-2-[3-(2-methylamino-ethyl)-ureido]-benzamide | COC1=C(C=CC=C1)C1=CNC2=NC=C(C=C21)C=2C=CC(=C(C(=O)N(C)C)C2)NC(=O)NCCNC | C27H30N6O3
